US08455646B2
Preparation of (2-acetyl-phenylamino)-phenyl-acetic acid ethyl ester (I62)
1-(2-Aminophenyl)ethanone (250 mg, 1.85 mmol), ethyl 2-bromo-2-phenylacetate (0.22 ml, 1.23 mmol), DIPEA (0.32 mL, 1.85 mmol) and a catalytic amount of potassium iodide are dissolved in acetonitrile (4 mL) and heated under MW irradiation at 100° C. for 2 hours and then at 120° C. for 1 hour. Acetonitrile is evaporated and the crude is purified by flash chromatography (petroleum ether/EtOAc=93/7) to obtain intermediate I110 as a yellow oil (367 mg, quantitative yield).

reactant | 1-(2-Aminophenyl)ethanone | 1.85 mmol, 250 mg | NC1=C(C=CC=C1)C(C)=O | C8H9NO
reactant | ethyl 2-bromo-2-phenylacetate | 1.23 mmol, 0.22 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | DIPEA | 1.85 mmol, 0.32 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | (2-acetyl-phenylamino)-phenyl-acetic acid ethyl ester | 367 mg, quantitative yield | C(C)OC(C(C1=CC=CC=C1)NC1=C(C=CC=C1)C(C)=O)=O | C18H19NO3
